Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])[H:11]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:7]/[O:8][C:9]([H:10])[H:11].[H:6],2.67879576661
[O:1]=[C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[O:1]=[C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])[H:11],4.39409657497
[H:15].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-1.93822889466
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9][O:10][H:11]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9].[O:10][H:11],6.455588767669999
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]=[O:3],-1.76033214
[C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][O:11][H:12].[H:1]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][O:11][H:12],-5.977974801009999
[C:1]#[C:2][C:3][C:10]([H:11])[H:12].[C:4]([H:5])([H:6])=[C:7]([H:8])[H:9]>>[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],0.821879622771
[H:1]/[C:2](=[C:3]\[O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:2](#[C:3][O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1],2.29183041555
[H:1][O:2][C:3]#[C:4][H:5].[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-1.5060997295700005
[C:1]#[C:2][O:3][C:4]#[C:5][H:6]>>[C:1]#[C:2].[O:3][C:4]#[C:5][H:6],3.0307098049400003
[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[O:1]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-4.1362245606800006
[H:3].[O:1]=[C:2]([C:4](=[O:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1][C@:2]([H:3])([C:4](=[O:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.09514182269
[C:1]#[C:2][C:3][O:4][H:5].[O:6]=[C:7]([H:8])[H:9]>>[C:1]#[C:2][C:3]([O:4][H:5])[O:6][C:7]([H:8])[H:9],-1.318229507
[H:1][O:2][C:3](=[C:5]([H:6])[H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:4]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.32457489759
[H:1][C:2]=[C:3]([H:4])[C:5][C:6]([H:7])([H:8])[O:9][H:10]>>[C:3]([H:4])#[C:5][C:6]([H:7])([H:8])[O:9][H:10].[H:1][C:2],3.0908411845700003
[H:1][O:2][C:3][C:10]([C:9][C:6]([C:4][H:5])([H:7])[H:8])([H:11])[H:12]>>[H:1][O:2][C:3]1=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][C:10]1([H:11])[H:12],-6.96430502896
[H:11].[H:1][O:2][C:3]#[C:4][C:5]([O:6][H:7])=[C:8]([H:9])[H:10]>>[H:1][O:2][C:3]=[C:4]=[C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11],-2.2928279724
[H:1][O:2][C:3]([H:4])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:5][H:6]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-5.47927669266
[C:1]=[C:2]([O:3][O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]=[C:2]([O:3][O:4])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:5],3.81480829377
[C:7]([H:8])[H:9].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:10]([H:11])=[C:12]=[C:13]([H:14])[H:15]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]=[C:13]([H:14])[H:15],-5.2389145538
[C:3]([H:4])#[C:5][C:6]([H:7])[O:8][H:9].[O:1]=[C:2]>>[O:1]=[C:2]=[C:3]([H:4])/[C:5]=[C:6](/[H:7])[O:8][H:9],-0.495232390109
[H:1][C:2]([H:3])[C@@:4]1([H:5])[O:6][C:7]([H:8])([H:9])[O:10][C:11]1([H:12])[H:13]>>[H:1][C:2]([H:3])[O:6][C:7]([H:8])([H:9])[O:10][C:11](=[C:4]([H:5])[H:13])[H:12],1.09655633073
[O:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8]>>[C:3]([H:4])#[C:5][C:6]([H:7])[H:8].[O:1]=[O:2],0.98940211381
[H:1][O:2][C:3][C:5]([H:4])([H:10])[H:11].[O:6]([H:7])[C:8][H:9]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[H:11],-5.12923081
[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]1=[C:4]([C:5]([H:6])[H:7])[C@@:8]1([H:9])[C:10]([H:11])([H:12])[H:13],0.39472636847
[H:1][C:2][O:3][C:4]([H:5])[O:6][H:7]>>[H:1][C:2].[O:3]=[C:4]([H:5])[O:6][H:7],2.26400121
[H:1][C:2]([H:3])[C:4]1=[C:5]([O:6][C:7]([H:8])([H:9])[H:10])[C:11]1([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4][C:11]([C:5][O:6][C:7]([H:8])([H:9])[H:10])([H:12])[H:13],2.04076983075
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13].[H:7],1.61261211294
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:7].[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6]=[C:8]([H:9])[C:10]([H:11])[H:12],4.50884286748
[H:1][O:2]/[C:3]=[C:4](\[O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][O:2]/[C:3]=[C:4](\[O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],4.53775837495
